US07629342B2
To the suspension of 4-(2-benzyl-5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile (3.62 gm, 9.12 mmol) in toluene (50 ml) at rt under argon was added AlCl3 (3.65 gm, 27.4 mmol). The reaction was heated to 80° C. and stirred at this temperature for 4 hrs. After this time, the solution was cooled to rt and concentrated under reduced pressure. Ice water (100 ml) was added to the reaction residue and the resulting slurry was stirred for 20 min. The solution was then diluted with EtOAc and the layers were separated. The aqueous layer was extracted with EtOAc (2×50 ml). The combined organic layers were washed with 1N NaOH (50 ml). The organic layer was then slurried with MgSO4 to remove excess water, filtered and concentrated to give the crude product. The crude product was triturated with EtOAc/Hex to give 2.21 gm (79% yield) 4-(5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile. HPLC retention time (method B) 3.22 min; LCMS (M+H)=308.0.

reactant | 4-(2-benzyl-5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 9.12 mmol, 3.62 gm | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)C1=CC=C(C#N)C=C1)C1=CC=C(C=C1)Cl | C24H16ClN3O
reactant | AlCl3 | 27.4 mmol, 3.65 gm | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(5-(4-chlorophenyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 2.21 gm, 79% yield | ClC1=CC=C(C=C1)C1=C(C(NN=C1)=O)C1=CC=C(C#N)C=C1 | C17H10ClN3O
